US06787543B2
(4S,9aS)-4-Benzhydryl-8-benzyloxycarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine (187 mg) was dissolved in tetrahydrofuran (2 ml), and triethylamine (0.0747 ml) was added to it at room temperature. The solution was hydrogenated over 10% palladium-charcoal (50% wet, 40 mg) at room temperature under atmospheric pressure for 2 hours. After removal of the catalyst by filtration, the filtrate was evaporated under reduced pressure to give colorless syrup. The resulting residue was purified by column chromatography on silica gel (7 g) using a mixed solvent of dichloromethane and methanol (10:1). The fractions containing the objective compound were collected and evaporated under reduced pressure to give a syrup. To a solution of the syrup in dichloromethane (2 ml) was added a solution of 4N hydrogen chloride in ethyl acetate (0.050 ml), and triturated with diisopropyl ether. The precipitate was collected by filtration and dried under reduced pressure for 5 hours at 40° C. to give (4S,9aR)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride (154 mg) as a colorless powder.

reactant | (4S,9aS)-4-Benzhydryl-8-benzyloxycarbonyl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine | 187 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(C[C@@H]2N1CCN(C2)C(=O)OCC2=CC=CC=C2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | C38H38F3N7O3
reactant | triethylamine | 0.0747 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 0.050 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium-charcoal | 40 mg | [Pd] | Pd
product | (4S,9aR)-4-benzhydryl-2-[2-methoxy-5-[5-(trifluoromethyl)-1H-tetrazol-1-yl]benzyl]octahydro-2H-pyrazino[1,2-a]pyrazine trihydrochloride | 154 mg | Cl.Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)[C@H]1CN(C[C@@H]2N1CCNC2)CC2=C(C=CC(=C2)N2N=NN=C2C(F)(F)F)OC | InChI=1S/C30H32F3N7O.3ClH/c1-41-27-13-12-24(40-29(30(31,32)33)35-36-37-40)16-23(27)18-38-19-25-17-34-14-15-39(25)26(20-38)28(21-8-4-2-5-9-21)22-10-6-3-7-11-22;;;/h2-13,16,25-26,28,34H,14-15,17-20H2,1H3;3*1H/t25-,26-;;;/m1.../s1
